US05958910
A mixture of 0.5 g of 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrochloride with 0.52 g of 3,4-dichlorobenzenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 25 ml of 1N hydrochloric acid and the solid which thereby separated was filtered off and dissolved in a mixture of 30 ml of ethanol and 20 ml of 2N sodium hydroxide solution. After the addition of 0.5 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. The product separated upon neutralization with concentrated hydrochloric acid. Recrystallization from 80 ml of 50% ethanol yielded 0.39 g of 3,4-dichloro-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide as yellowish crystals.

reactant | 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrochloride | 0.5 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N
reactant | 3,4-dichlorobenzenesulfonyl chloride | 0.52 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | hydrochloric acid | 1N, 25 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dichloro-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide | 0.39 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C15H9Cl2N3O4S2
